US06579875B1
b) 6-Chloro-3-(2,4-difluorophenyl)-7-(1-methylcyclohexyl)-1,2,4-triazolo(4,3-b]pyridazine
A mixture of 3,6-dichloro-4-(1-methylcyclohexyl)pyridazine (1.29 g, 5.27 mmol), 2,4-difluorobenzoic hydrazide (1.72 g, 10 mmol) and triethylamine hydrochloride (1.09 g, 7.9 mmol) in p-xylene (5 ml) was stirred and heated at reflux for 24 hours. Upon cooling, the volatiles were removed in vacuo and the residue was partitioned between dichloromethane (100 ml) and water (100 ml) and NaHCO3 (100 ml). Undissolved solid was removed by filtration. The layers were separated and the aqueous was further extracted with dichloromethane (2×100 ml). The combined organic extracts were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography on silica eluting with 0%→25% ethyl acetate in dichloromethane to give the required product (0.74 g): 1H NMR (250 MHz, CDCl3) δ1.34-1.74 (6H, m), 1.50 (3H, s), 1.90-2.15 (4H, m), 7.01-7.14 (2H, m), 7.87-7.98 (1H, m), 8.18 (1H, s); MS (ES+) m/e 365 [MH]+, 363 [MH]+.

reactant | 3,6-dichloro-4-(1-methylcyclohexyl)pyridazine | 5.27 mmol, 1.29 g | ClC=1N=NC(=CC1C1(CCCCC1)C)Cl | C11H14Cl2N2
reactant | 2,4-difluorobenzoic hydrazide | 10 mmol, 1.72 g | FC1=C(C(=O)NN)C=CC(=C1)F | C7H6F2N2O
reactant | triethylamine hydrochloride | 7.9 mmol, 1.09 g | Cl.C(C)N(CC)CC
solvent | p-xylene | 5 ml | CC=1C=CC(=CC1)C | C8H10
product | 6-Chloro-3-(2,4-difluorophenyl)-7-(1-methylcyclohexyl)-1,2,4-triazolo(4,3-b]pyridazine | 0.74 g | ClC=1C(=CC=2N(N1)C(=NN2)C2=C(C=C(C=C2)F)F)C2(CCCCC2)C | C18H17ClF2N4
